US08937150B2
methyl(S)-1-((S)-2-(4-((2R,5R)-5-(4-chloro-3-nitrophenyl)-1-(3,5-difluoro-4-(4-phenylpiperidin-1-yl)phenyl)pyrrolidin-2-yl)-2-nitrophenylcarbamoyl)pyrrolidin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamate
1-(4-((2R,5R)-2,5-Bis(4-chloro-3-nitrophenyl)pyrrolidin-1-yl)-2,6-difluorophenyl)-4-phenylpiperidine (0.745 g, 1.14 mmol) was dissolved in dioxane (12 mL) in a tube and treated with methyl(S)-1-((S)-2-carbamoylpyrrolidin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamate (0.309 g, 1.14 mmol), cesium carbonate (0.409 g, 1.25 mmol), Xantphos (0.066 g, 0.11 mmol), and tris(dibenzylideneacetone)dipalladium(0) (0.052 g, 0.057 mmol). Nitrogen was bubbled through this mixture for 15 minutes, then the tube was sealed and heated at 100° C. for 2 hours. The mixture was diluted with water, extracted into dichloromethane, concentrated, and purified by chromatography, eluting with 0-5% methanol in dichloromethane to give 0.44 g (43%) of a dark yellow solid.

reactant | 1-(4-((2R,5R)-2,5-Bis(4-chloro-3-nitrophenyl)pyrrolidin-1-yl)-2,6-difluorophenyl)-4-phenylpiperidine | 1.14 mmol, 0.745 g | ClC1=C(C=C(C=C1)[C@@H]1N([C@H](CC1)C1=CC(=C(C=C1)Cl)[N+](=O)[O-])C1=CC(=C(C(=C1)F)N1CCC(CC1)C1=CC=CC=C1)F)[N+](=O)[O-] | C33H28Cl2F2N4O4
reactant | methyl(S)-1-((S)-2-carbamoylpyrrolidin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamate | 1.14 mmol, 0.309 g | C(N)(=O)[C@H]1N(CCC1)C([C@H](C(C)C)NC(OC)=O)=O | C12H21N3O4
reactant | cesium carbonate | 1.25 mmol, 0.409 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Xantphos | 0.11 mmol, 0.066 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 12 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.057 mmol, 0.052 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | methyl(S)-1-((S)-2-(4-((2R,5R)-5-(4-chloro-3-nitrophenyl)-1-(3,5-difluoro-4-(4-phenylpiperidin-1-yl)phenyl)pyrrolidin-2-yl)-2-nitrophenylcarbamoyl)pyrrolidin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamate | 0.44 g, 43% | ClC1=C(C=C(C=C1)[C@H]1CC[C@@H](N1C1=CC(=C(C(=C1)F)N1CCC(CC1)C1=CC=CC=C1)F)C1=CC(=C(C=C1)NC(=O)[C@H]1N(CCC1)C([C@H](C(C)C)NC(OC)=O)=O)[N+](=O)[O-])[N+](=O)[O-] | C45H48ClF2N7O8
